datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23])([H:5])[H:6],9.99976
[C:0]1([H:12])=[C:1]([H:13])[c:2]2[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]3[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[c:11]23.[O:20]>>[C:0]1([H:12])=[C:1]([H:13])[c:2]2[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]3[c:7]([H:17])[c:8][c:9]([H:19])[c:10]1[c:11]23.[H:18][O:20],61.5271
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[C:26]([C:27](=[C:28]([H:32])[H:33])[H:31])([H:29])[H:30]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[C:26]([C:27](=[C:28]([H:32])[H:33])[H:31])([H:29])[H:30],56.4003
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8](=[S:9])[H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:7]([C:6]([H:10])([H:11])[H:12])([C:8](=[S:9])[H:14])[H:13],84.9352
[O:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10])[H:8].[O:16][H:17]>>[H:8][O:16][H:17].[O:0][C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10],6.280184
[C:0]([O:1][H:4])([H:2])[H:3].[H:5]>>[C:0]([H:2])[H:3].[O:1]([H:4])[H:5],2.55224
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][C:6]([C:7]([H:18])([H:19])[H:20])=[O:8])[H:14])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:14])([H:12])[H:13])[H:11])([H:9])[H:10].[O:5]=[C:6]([C:7]([H:18])([H:19])[H:20])[O:8][H:15],183.6776
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10]([C:11]([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:11]([C:10]([H:18])([H:19])[H:20])([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])[H:6],36.7355
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:24][H:30],18.673192
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[O:5][H:15])[H:8])([H:6])[H:7].[C:16]([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:6])[H:7].[O:5]([H:15])[C:16]([H:17])([H:18])[H:19],161.614
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:9])[H:10])[H:8])([H:6])[H:7],125.938
[C:0](=[C:1]=[C:2]([C:3]([H:12])([H:13])[H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:10])[H:11].[C:20]([C:21]([H:24])([H:25])[H:26])([H:22])[H:23]>>[C:0](=[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[C:20]([C:21]([H:24])([H:25])[H:26])([H:22])[H:23])([H:10])[H:11],40.7103
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38][O:39][H:40]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:12])([H:13])[H:14].[H:15][O:38][O:39][H:40],58.19944
[C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7].[O:0]=[N:1][O:2][H:3]>>[H:3][C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7].[O:0]=[N:1][O:2],23.028736
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])=[C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])([H:18])[H:19])([H:16])[H:17])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:12],100.542
